US05225597
Continuous preparation of N-cyclohexyl ethylenediamine; general procedure
In this example the ratio of ethylenediamine:cyclohexanone, the reaction temperature, and the H2 :feed ratio were varied using as a catalyst 0.3 weight percent platinum (sulfided) on gamma-alumina in a non-aqueous environment. Samples were taken every 6 hours to afford the results in Table 1.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
catalyst | platinum | [Pt] | Pt
product | N-cyclohexyl ethylenediamine | C1(CCCCC1)NCCN | C8H18N2
